US06392059B1
To 1.23 g(5.12 mmol) of (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan and 3.26 g of sodium hydrogencarbonate in 100 ml of methylene chloride suspension were added 3.26 g(1.5 equivalents) of Dess-Martin reagent under stirring and cooling with ice, and the mixture was stirred for 1 hour at room temperature. After 6.35 g of sodium thiosulfate 5-hydrate and 50 ml of saturated aqueous solution of sodium hydrogencarbonate were added to the reaction mixture and stirred, two layers were separated and extraction with methylene chloride(5 ml×3) was performed from aqueous layer. The organic layers were dried over anhydrous magnesium sulfate, filtered and solvent was distilled off. The residue was purified by means of silica gel column chromatography(hexane:ethyl acetate=4:1) to obtain 1.18 g of (1S,3S,3aR,4aS,8aR,9aS)-1-methoxy-3-methyl-4-oxo-dodecahydronaphtho[2,3-c]furan (yield 97%).

reactant | (1S,3S,3aS,4R,4aS,8aR,9aS)-4-hydroxy-1-methoxy-3-methyl-dodecahydronaphtho[2,3-c]furan | 5.12 mmol, 1.23 g | O[C@@H]1[C@H]2CCCC[C@@H]2C[C@@H]2[C@H](O[C@H]([C@@H]21)C)OC | C14H24O3
reactant | sodium hydrogencarbonate | 3.26 g | C(O)([O-])=O.[Na+]
reactant | Dess-Martin reagent | 3.26 g, 1.5 equivalents | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (1S,3S,3aR,4aS,8aR,9aS)-1-methoxy-3-methyl-4-oxo-dodecahydronaphtho[2,3-c]furan | 1.18 g, yield 97% | CO[C@H]1O[C@H]([C@H]2[C@@H]1C[C@H]1CCCC[C@@H]1C2=O)C | C14H22O3
